US07071175B1
TEA (0.076 mL, 0.542 mmol) was added to a solution of 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-acrylic acid ethyl ester (158 mg, 0.493 mmol) in thioacetic acid (2 mL) at 0° C. under argon. The mixture was stirred at 45° C. over night. EtOAc was added and the solution was washed with NaHCO3 and brine, dried and concentrated under reduced pressure. Flash chromatography (toluene/EtOAc, 5:1→1:1) gave slightly unpure 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-butyric acid ethyl ester (178 mg, 91%).

reactant | 2-[1-(6-tert-butoxycarbonylamino-pyridin-3-yl)-ethyl]-acrylic acid ethyl ester | 0.493 mmol, 158 mg | C(C)OC(C(=C)C(C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C17H24N2O4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | thioacetic acid | 2 mL | C(C)(=S)O | C2H4OS
product | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-butyric acid ethyl ester | 178 mg, 91% | C(C)OC(C(C(C)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C19H28N2O5S
